US08492378B2
5-(1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol
To a solution of 1-benzofuran-5-carbohydrazide (1.50 g, 8.51 mmol) in ethanol (60 mL) were added potassium hydroxide (0.72 g, 12.8 mmol) and carbon disulfide (15.3 mL, 25.5 mmol), and the resulting mixture was stirred at room temperature for 5 hr. The reaction mixture was concentrated under reduced pressure, a mixture of the residue and N,N-dimethylformamide (30 mL) was tightly sealed in a vial, and the microwave was irradiated at 150° C. for 1 min. After cooling, the reaction mixture was acidified with 1M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from hexane/ethyl acetate to give the title compound (0.66 g, yield 36%) as colorless crystals.

reactant | 1-benzofuran-5-carbohydrazide | 8.51 mmol, 1.50 g | O1C=CC2=C1C=CC(=C2)C(=O)NN | C9H8N2O2
reactant | potassium hydroxide | 12.8 mmol, 0.72 g | [OH-].[K+]
reactant | carbon disulfide | 25.5 mmol, 15.3 mL | C(=S)=S | CS2
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 5-(1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol | 0.66 g, yield 36% | O1C=CC2=C1C=CC(=C2)C2=NN=C(O2)S | C10H6N2O2S
